* source CB
R_R1         N14488 N143090  100 TC=0,0 
R_R2         N143251 N14724  2.2k TC=0,0 
R_R3         0 N14813  51k TC=0,0 
R_R4         N143571 N14501  4.3k TC=0,0 
C_C1         N143090 N14501  1u  TC=0,0 
C_C2         N14724 N14813  1u  TC=0,0 
V_V1         N143251 0 5Vdc
V_V2         N143571 0 -5Vdc
V_V3         N14488 0  AC 10
+SIN 5 10 10 0 0 0
Q_Q2         N14724 0 N14501 Q2N2222
