* source CE
C_C1         N14561 N14594  1n  TC=0,0 
C_C2         N143250 N14555  1n  TC=0,0 
R_R1         N14561 N143500  10k TC=0,0 
R_R2         N14534 N143250  10k TC=0,0 
R_R3         0 N14555  1k TC=0,0 
R_R4         0 N14594  10k TC=0,0 
V_V1         N14534 0  AC 10
+SIN 5 10 10 0 0 0
V_V2         N143500 0 9Vdc
V_V3         N144820 0 -9Vdc
Q_Q2         N14561 N14555 N14699 Q2N2222
C_C3         N146170 N14699  1n  TC=0,0 
R_R5         0 N146170  125 TC=0,0 
I_I1         N14699 N144820 DC 0.2mAdc  
