* source MILE2
R_R1         N14659 N143380  10k TC=0,0 
R_R2         N14659 N143540  10k TC=0,0 
R_Re1         0 N15050  3.3k TC=0,0 
R_RL1         N15050 N15157  10k TC=0,0 
R_Re2         0 N14873  3.3k TC=0,0 
R_RL3         N14873 N15149  10k TC=0,0 
R_RL2         0 N15157  10k TC=0,0 
V_V3         N15335 0 5
V_V5         0 N15399 5
V_Vsq         N14659 0  
+PULSE -5 5 0 0.03us 0.03us 3u 1us
V_Vsin         N15018 0  
+SIN 0 5 700k 0 0 0
Q_Q3         N15018 N143380 N15050 Q2N2222
Q_Q4         N15018 N143540 N14873 Q2N2907A
R_R6         N15149 N15387  10k TC=0,0 
X_U3         N15157 N15149 N15335 N15399 N15387 uA741
R_RL6         N16490 N16400  10k TC=0,0 
R_Re3         0 N16226  3.3k TC=0,0 
R_Re4         0 N16490  3.3k TC=0,0 
X_U4         N16234 N16400 N16172 N16408 N16308 uA741
R_R7         N16242 N162000  10k TC=0,0 
Q_Q6         N16156 N164640 N16490 Q2N2907A
V_Vsq1         N16242 0  
+PULSE 0 5 0 0.03us 0.03us 3u 1us
R_R9         N16400 N16308  10k TC=0,0 
R_RL5         0 N16234  10k TC=0,0 
V_Vsin1         N16156 0  AC 5
+SIN 0 5 7000k 0 0 0
R_R8         N16242 N164640  10k TC=0,0 
Q_Q5         N16156 N162000 N16226 Q2N2222
V_V6         N16172 0 5
R_RL4         N16226 N16234  10k TC=0,0 
V_V7         0 N16408 5
Q_Q7         N20609 0 N20996 Q2N2222
Q_Q8         N20562 0 N20956 Q2N2222
Q_Q9         N21634 0 N21289 Q2N2222
R_R10         N20573 N20609  1k TC=0,0 
R_R11         N20566 N20562  1k TC=0,0 
R_R12         N20956 N21131  1k TC=0,0 
R_R13         N20996 N21131  1k TC=0,0 
R_R14         N21131 N21289  1k TC=0,0 
R_R15         N21634 N21881  1k TC=0,0 
X_U5         0 N20562 N20783 N20837 N20956 uA741
X_U6         N20609 0 N20837 N20783 N20996 uA741
X_U7         0 N21131 N20783 N20837 N21289 uA741
X_U8         0 N21634 N20783 N20837 N21881 uA741
V_V8         N20837 0 5
V_V9         N20783 0 5
V_V10         N20566 0  
+PULSE 0 5 0 0.03us 0.03us 3u 1us
V_V11         N20573 0  
+SIN 0 5 700k 0 0 0
